US05804588
5-Bromo-8-methoxy-2-methylquinoline
A solution of 8-methoxy-2-methylquinoline (1.0 g) in methanol (30 ml) was treated at room temperature with bromine (0.31 ml). The mixture was heated at 45° C. for 2 hours and the reaction quenched with 5% aqueous sodium metabisulphite (50 ml). The solution was basified with 25% aqueous sodium hydroxide to pH13 and the product extracted with ethyl acetate (2×100 ml). The extracts were combined, dried over magnesium sulphate, filtered and the filtrate evaporated in vacuo. The residue was dissolved in ethyl acetate and passed through a silica pad. The solution was evaporated in vacuo to yield the desired product as an off-white solid (0.43 g).

reactant | 8-methoxy-2-methylquinoline | 1.0 g | COC=1C=CC=C2C=CC(=NC12)C | C11H11NO
reactant | bromine | 0.31 ml | BrBr | Br2
solvent | methanol | 30 ml | CO | CH4O
product | 5-Bromo-8-methoxy-2-methylquinoline | 0.43 g | BrC1=C2C=CC(=NC2=C(C=C1)OC)C | C11H10BrNO
